US07968556B2
SYNTHESIS OF 9-ISOPROPYL-2-(3-HYDROXY-PHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
5-Amino-6-isopropylamino-2-(3-hydroxy-phenyl)-pyrimidine-4-carboxylate. In a microwave flask was placed 5-amino-6-isopropylamino-2-chloro-pyrimidine-4-carboxylate (1.2 g, 4.6 mmol), 3-hydroxyphenylboronic acid (0.96 g, 7.0 mmol), potassium phosphate (3.0 g, 14.0 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.28 g, 0.68 mmol) and palladium (II) acetate (0.16 g, 0.71 mmol) in tetrahydrofuran (25 mL) and water (4 mL). The mixture was reacted according to General Procedure E. The crude residue was purified using Biotage silica gel chromatography (0-35% ethyl acetate in hexanes) to afford the title compound (0.43 g, 1.4 mmol, 29% yield). MS (ESI) m/z 317.1 [M+1]+.

reactant | 5-Amino-6-isopropylamino-2-(3-hydroxy-phenyl)-pyrimidine-4-carboxylate | NC=1C(=NC(=NC1NC(C)C)C1=CC(=CC=C1)O)C(=O)[O-]
reactant | 5-amino-6-isopropylamino-2-chloro-pyrimidine-4-carboxylate | 4.6 mmol, 1.2 g | NC=1C(=NC(=NC1NC(C)C)Cl)C(=O)[O-]
reactant | 3-hydroxyphenylboronic acid | 7.0 mmol, 0.96 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | potassium phosphate | 14.0 mmol, 3.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.68 mmol, 0.28 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 4 mL | O | H2O
catalyst | palladium (II) acetate | 0.71 mmol, 0.16 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 9-ISOPROPYL-2-(3-HYDROXY-PHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 1.4 mmol, 0.43 g, 29% yield | C(C)(C)N1C2=NC(=NC(=C2NC1=O)C(=O)N)C1=CC(=CC=C1)O | C15H15N5O3
